US04178449
5-Phenylpyrazolo[1,5-a]pyrimidine
A mixture of 2.29 g. of 5-chloro-7-phenylpyrazolo-[1,5-a]pyrimidine, 0.90 g. anhydrous sodium acetate, and 0.30 g. of 10% palladium on charcoal catalyst in 100 ml. of absolute alcohol is hydrogenated at 10 lbs. pressure. Uptake stops in 45 minutes and catalyst is filtered. Evaporation and solution in methylene chloride with passage through a short hydrous magnesium silicate column gives the solution from which the desired compound crystallizes upon the addition of hexane, m.p. 122°-124° C.

reactant | 5-chloro-7-phenylpyrazolo-[1,5-a]pyrimidine | ClC1=NC=2N(C(=C1)C1=CC=CC=C1)N=CC2 | C12H8ClN3
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
catalyst | palladium on charcoal | [Pd] | Pd
product | 5-Phenylpyrazolo[1,5-a]pyrimidine | C1(=CC=CC=C1)C1=NC=2N(C=C1)N=CC2 | C12H9N3
